US05840732
iv) Synthesis of 5-butylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylsulfonyl)butyl]thiazolidine-2,4-dione hydrochloride
To a solution of 269 mg (0.66 mmol) of 5-butylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylsulfonyl)butyl]thiazolidine-2,4-dione in 10 ml of methanol, 0.10 ml of concentrated hydrochloric acid was added, followed by stirring, after which the solvent was distilled off. The residue was washed with diethyl ether to yield 304 mg (quant., yellow oily substance) of the desired product.

reactant | 5-butylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylsulfonyl)butyl]thiazolidine-2,4-dione | 0.66 mmol, 269 mg | C(CCC)=C1C(N(C(S1)=O)CCCCS(=O)(=O)C1=CC=CC=2N1C=CN2)=O | C18H21N3O4S2
reactant | hydrochloric acid | 0.10 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 5-butylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylsulfonyl)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C(CCC)=C1C(N(C(S1)=O)CCCCS(=O)(=O)C1=CC=CC=2N1C=CN2)=O | InChI=1S/C18H21N3O4S2.ClH/c1-2-3-7-14-17(22)21(18(23)26-14)11-4-5-13-27(24,25)16-9-6-8-15-19-10-12-20(15)16;/h6-10,12H,2-5,11,13H2,1H3;1H
